US05691330
The reaction and procedure were conducted in a similar manner as in Example 24 using 1.5 g of 6-acetyl-3-(4-chlorobutyryl-4,5,6,7-tetrahydro-2-ethylthieno[2,3-c]pyridine and 1.2 g of 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine hydrochloride to give 0.7 g of 6-acetyl-3-(4-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)butyryl)-4,5,6,7-tetrahydro-2-ethylthieno[2,3-c]pyridine as an oil, m.p. 93°-95° C. as oxalate 1/4hydrate thereof.

reactant | 4-chlorobutyryl-4,5,6,7-tetrahydro-2-ethylthieno[2,3-c]pyridine | ClCCCC(=O)C1=C(SC=2CNCCC21)CC | C13H18ClNOS
reactant | 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine hydrochloride | 1.2 g | Cl.FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1
reactant | oxalate | C(C(=O)[O-])(=O)[O-]
product | 6-acetyl-3-(4-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)butyryl)-4,5,6,7-tetrahydro-2-ethylthieno[2,3-c]pyridine | 0.7 g | C(C)(=O)N1CC2=C(CC1)C(=C(S2)CC)C(CCCN2CCC(CC2)C2=NOC1=C2C=CC(=C1)F)=O | C27H32FN3O3S
